US04835154
Reaction of 1-(3,5-difluorobenzyl)-5-[(4-methyl-1-piperazinyl)methyl]imidazole-2-thiol prepared as in Example 1 with methyl iodide and sodium methoxide in methanol by known techniques yields 1-(3,5-difluorobenzyl)-5-[(4-methyl-1-piperazinyl)methyl]imidazole-2-methylthioimidazole.

reactant | 1-(3,5-difluorobenzyl)-5-[(4-methyl-1-piperazinyl)methyl]imidazole-2-thiol | FC=1C=C(CN2C(=NC=C2CN2CCN(CC2)C)S)C=C(C1)F | C16H20F2N4S
reactant | methyl iodide | CI | CH3I
reactant | sodium methoxide | C[O-].[Na+]
solvent | methanol | CO | CH4O
product | 1-(3,5-difluorobenzyl)-5-[(4-methyl-1-piperazinyl)methyl]imidazole 2-methylthioimidazole | FC=1C=C(CN2C=NC=C2CN2CCN(CC2)C)C=C(C1)F.CSC=1NC=CN1 | InChI=1S/C16H20F2N4.C4H6N2S/c1-20-2-4-21(5-3-20)11-16-9-19-12-22(16)10-13-6-14(17)8-15(18)7-13;1-7-4-5-2-3-6-4/h6-9,12H,2-5,10-11H2,1H3;2-3H,1H3,(H,5,6)
